US07074799B2
Heat a solution of [2-chloromethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine HCl (30 mg, 0.058 mmol) in pyrrolidine (1 mL) at 100° C. for 1 hour. Remove the excess pyrrolidine under reduced pressure and partition the residue between EtOAc and 10% NaOH solution. Dry the EtOAc layer (Na2SO4) and concentrate under reduced pressure to give [2-Pyrrolidin-1-ylmethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine as a foam. Mass Spec 517.2.

reactant | [2-chloromethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine HCl | 0.058 mmol, 30 mg | Cl.ClCC1=NC2=CC(=CC=C2C(=N1)NC1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F
reactant | pyrrolidine | 1 mL | N1CCCC1 | C4H9N
product | [2-Pyrrolidin-1-ylmethyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine | N1(CCCC1)CC1=NC2=CC(=CC=C2C(=N1)NC1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F | C26H21F6N5
